US07423181B2
1-[4-Hydroxy-3-(4-methyl-piperazin-1-ylmethyl)-phenyl]-ethanone
A solution of formaldehyde (37% w/w, 8.2 mL) was added to a solution of 4′-Hydroxy acetophenone (100 mmol), and N-methylpiperazine (110 mmol) in EtOH. Heated at reflux overnight. The solvent was evaporated on celite and the residue was purified by flash chromatography and crystallized from heptane to give the title product as white needles in 55% yield. 1H-NMR (DMSO-d6) δ 7.76 (dd, 1H), 7.74 (s, 1H), 6.81 (d, 1H), 3.69 (s, 2H), 2.47 (br, 4H), 2.46 (s, 3H), 2.35 (br, 4H), 2.17 (s, 3H).

reactant | formaldehyde | 8.2 mL | C=O | CH2O
reactant | 4′-Hydroxy acetophenone | 100 mmol | OC1=CC=C(C=C1)C(C)=O | C8H8O2
reactant | N-methylpiperazine | 110 mmol | CN1CCNCC1 | C5H12N2
solvent | EtOH | CCO | C2H6O
product | 1-[4-Hydroxy-3-(4-methyl-piperazin-1-ylmethyl)-phenyl]-ethanone | 55% yield | OC1=C(C=C(C=C1)C(C)=O)CN1CCN(CC1)C | C14H20N2O2
